US07160906B2
6-[(3-isobutoxy-5-isopropoxybenzoyl)amino]-3-pyridinecarboxylic Acid (Route 4)
Methyl 6-[(3-isobutoxy-5-isopropoxybenzoyl)amino]-3-pyridinecarboxylate (230 mg, 0.62 mM) was dissolved in THF (8 ml) and a 2M NaOH solution (1.2 ml, 2.40 mM) was added. Water (7 ml) was added to the reaction mixture until it became monophasic. The reaction was stirred for 6 hours at ambient temperature and was then acidified to pH=1 with 1N aqueous HCl. The white solid which precipitated from the mixture was isolated by filtration and dried to give the title compound as a colourless solid (195 mg); H1 NMR δ (d6-DMSO) 0.99 (6H d) 1.12 (6H d) 2.00 (1H sept) 3.80 (2H d) 4.65 (1H sept) 6.62 (1H s) 7.19 (2H s) 8.30 (2H s) 8.86 (1H s) 11.09 (1H s br); [M+H]373; [M−H] 371.

reactant | Methyl 6-[(3-isobutoxy-5-isopropoxybenzoyl)amino]-3-pyridinecarboxylate | 0.62 mM, 230 mg | C(C(C)C)OC=1C=C(C(=O)NC2=CC=C(C=N2)C(=O)OC)C=C(C1)OC(C)C | C21H26N2O5
reactant | NaOH | 2M, 1.2 ml | [OH-].[Na+]
reactant | Water | 7 ml | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 6-[(3-isobutoxy-5-isopropoxybenzoyl)amino]-3-pyridinecarboxylic Acid | 195 mg | C(C(C)C)OC=1C=C(C(=O)NC2=CC=C(C=N2)C(=O)O)C=C(C1)OC(C)C | C20H24N2O5
